Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Subarachnoid hemorrhage
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ year old male with history of coronary 
artery disease on Aspirin who is S/P motor vehicle accident 
where he was struck in the left front end of his car at 
approximately 40 miles per hour. Airbag deployed and he struck 
his head on the windshield. He was taken to an outside hospital 
where ___ showed scattered right temporal subarachnoid 
hemorrhage.
 
Past Medical History:
CAD, Diabetes, Hypertension, Hyperlipidemia, HTN, s/p right
arm amputation ___ from injury in ___.
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Upon Admission:
===============
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: ___        EOMs full
Neck: Supple.

Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension 

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to 4 to 3mm bilaterally.
Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift
Note patient has amputation of left forearm

Sensation: Intact to light touch, 

Toes downgoing bilaterally

Upon Discharge:
==============
He is awake, alert, and cooperative with the exam. He is 
oriented to self, location, and date. PERRL, EOMI. ___, no 
pronator drift. He has right arm amputation below the elbow and 
moves all his extremities with ___ strength. Sensation is intact 
to light touch throughout.
 
Pertinent Results:
Please see OMR for relevant findings.
 
Brief Hospital Course:
___ is a ___ year old male on ASA 81mg who is S/P 
motor vehicle accident and was found to have right temporal 
traumatic subarachnoid hemorrhage.

#Traumatic subarachnoid hemorrhage
He was admitted to the ___ for close neurological monitoring. 
Aspirin was held on admission. Repeat ___ showed stable 
hemorrhage. He remained neurologically intact on exam. His pain 
was well controlled. He was tolerating a diet and ambulating 
independently. His vital signs were stable and he was afebrile. 
He was discharged to home in a stable condition.
 
Medications on Admission:
Tylenol, ASA 81mg, HCTZ 12.5mg, Lisinopril 10mg tablet, 
Metformin 1000mg, Lopressor 25mg 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
You may resume this medication ___.  
2.  Acetaminophen 650 mg PO TID  
3.  Atorvastatin 80 mg PO QPM  
4.  Hydrochlorothiazide 12.5 mg PO DAILY  
5.  Lisinopril 10 mg PO DAILY  
6.  MetFORMIN (Glucophage) 1000 mg PO DAILY  
7.  Metoprolol Tartrate 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Traumatic subarachnoid hemorrhage

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions:

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise for one month.
•You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
•You should avoid contact sports for 6 months. 

Medications
•You may resume your Aspirin on ___. 
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
•You may have difficulty paying attention, concentrating, and 
remembering new information.
•Emotional and/or behavioral difficulties are common. 
•Feeling more tired, restlessness, irritability, and mood 
swings are also common.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.
Headaches:
•Headache is one of the most common symptoms after traumatic 
brain injury. Headaches can be long-lasting. 
•Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
•Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
•There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


More Information about Brain Injuries:
•You were given information about headaches after TBI and the 
impact that TBI can have on your family.
•If you would like to read more about other topics such as: 
sleeping, driving, cognitive problems, emotional problems, 
fatigue, seizures, return to school, depression, balance, or/and 
sexuality after TBI, please ask our staff for this information 
or visit ___

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason
 
Followup Instructions:
___